US07417157B2
58.3 g (170 mmol) of methoxymethyltriphenylphosphonium chloride are initially introduced in 500 ml of THF, and a solution of 19.1 g (170 mmol) of potassium tert-butoxide in 200 ml of THF is added at 0° C. After 30 min at this temperature, 7-ethoxy-6-fluoro-1,4,4a,9b-tetrahydro-2H-dibenzofuran-3-one as a solution in 300 ml of THF is added, and the batch is stirred at room temperature for 17 h. Water is added at 0° C., and the mixture is acidified using 2 N hydrochloric acid. The batch is extracted with MTBE, and the combined extracts are washed with sat. sodium chloride solution. The solution is dried using sodium sulfate and concentrated to dryness. Purification of the crude product by column chromatography (SiO2, toluene) gives (±)-(4aR*, 9bS*)-7-ethoxy-6-fluoro-3-[1-methoxy-methylidene]-1,2,3,4,4a,9b-hexahydrodibenzofuran as colourless solid.

reactant | methoxymethyltriphenylphosphonium chloride | 170 mmol, 58.3 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium tert-butoxide | 170 mmol, 19.1 g | CC(C)([O-])C.[K+]
reactant | 7-ethoxy-6-fluoro-1,4,4a,9b-tetrahydro-2H-dibenzofuran-3-one | C(C)OC1=C(C2=C(C3C(O2)CC(CC3)=O)C=C1)F | C14H15FO3
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | THF | 500 ml | C1CCOC1 | C4H8O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 300 ml | C1CCOC1 | C4H8O
solvent | Water | O | H2O
product | 7-ethoxy-6-fluoro-3-[1-methoxy-methylidene]-1,2,3,4,4a,9b-hexahydrodibenzofuran | C(C)OC1=C(C2=C(C3C(O2)CC(CC3)=COC)C=C1)F | C16H19FO3
